US07825119B2
Synthesis of 7-[3-(6-chloro-5-methyl-pyrimidin-4-yloxy)-propyl]-1,2,3,4-tetrahydro-[1,8]naphthyridine:
A sufficient quantity of ethanol to solubilize the product, and 15 mg of platinum oxide are added to 300 mg (0.953 mmoles) of 2-[3-(6-chloro-5-methyl -pyrimidin-4-yloxy)-propyl]-[1,8]naphthyridine. The reaction mixture is then purged under vacuum and surmounted on a balloon flask containing hydrogen. The reaction medium is left under stirring and at ambient temperature for 6 hours then overnight. The reaction mixture is then filtered on Clarcel and concentrated to dryness under reduced pressure (2 kPa). Then 300 mg of expected product is obtained.

reactant | 2-[3-(6-chloro-5-methyl -pyrimidin-4-yloxy)-propyl]-[1,8]naphthyridine | 0.953 mmoles, 300 mg | ClC1=C(C(=NC=N1)OCCCC1=NC2=NC=CC=C2C=C1)C | C16H15ClN4O
catalyst | platinum oxide | 15 mg | [Pt]=O
solvent | ethanol | C(C)O | C2H6O
product | 7-[3-(6-chloro-5-methyl-pyrimidin-4-yloxy)-propyl]-1,2,3,4-tetrahydro-[1,8]naphthyridine | 300 mg | ClC1=C(C(=NC=N1)OCCCC1=CC=C2CCCNC2=N1)C | C16H19ClN4O
